US07678794B2
Synthesis of 1-[2-hydroxy-4-(3-nitro-benzyloxy)-3-propyl-phenyl]-ethanone
Add 3-bromomethyl nitrobenzene (10.00 g, 46.3 mmol) to a solution of 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone (8.99 g, 46.3 mmol) in dimethylformamide (60 mL). After 10 minutes add potassium carbonate (9.60 g, 69.4 mmol) and cesium carbonate (15.08 g, 46.3 mmol). Stir at room temperature for one hour, then heat to 70° C. for 1.5 hours. Cool and add water (250 mL). Triturate for 15 minutes. Filter. Wash the solid with water several times, and then wash with hexanes. Dry to afford the title compound as an off white/light gray powder (12.9 g, 85%): 1H NMR (DMSO-d6) δ 0.91 (t, 3H), 1.52 (m, 2H), 2.58 (s, 3H), 2.63 (m, 2H), 5.42 (s, 2H), 6.72 (d, 1H), 7.73 (t, 1H), 7.83 (d, 1H), 7.90 (d, 1H), 8.21 (d, 1H), 8.34 (s, 1H), 12.88 (bs, 1H).

reactant | 3-bromomethyl nitrobenzene | 46.3 mmol, 10.00 g | BrCC=1C=C(C=CC1)[N+](=O)[O-] | C7H6BrNO2
reactant | 1-(2,4-dihydroxy-3-propyl-phenyl)-ethanone | 46.3 mmol, 8.99 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 69.4 mmol, 9.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | cesium carbonate | 46.3 mmol, 15.08 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | water | 250 mL | O | H2O
product | 1-[2-hydroxy-4-(3-nitro-benzyloxy)-3-propyl-phenyl]-ethanone | OC1=C(C=CC(=C1CCC)OCC1=CC(=CC=C1)[N+](=O)[O-])C(C)=O | C18H19NO5
